* C:\Users\msaya\Documents\Github\Amplifier\Switch\Test.asc
V1 Vsup 0 56
R2 Vsup N011 330 pwr=0.5
M§Q2 Vamp N012 Vsup Vsup IXTH10P50
M§Q5A Vamp N017 0 0 BSC340N08NS3
R3 Vsup N001 2.2
R4 Vsup N002 2.2
R5 Vsup N003 2.2
R6 Vsup N004 2.2
R7 Vsup N005 2.2
R8 Vsup N006 2.2
R9 Vsup N007 2.2
R10 Vsup N008 2.2
R11 Vsup N009 2.2
R12 Vsup N010 2.2
C2 N001 0 0.1µ
C3 N002 0 0.1µ
C4 N003 0 0.1µ
C5 N004 0 0.1µ
C6 N005 0 0.1µ
C7 N006 0 0.1µ
C8 N007 0 0.1µ
C9 N008 0 0.1µ
C10 N009 0 0.1µ
C11 N010 0 0.1µ
R16 Vamp N014 4700 pwr=1
C13 Vamp N014 68p
D3 0 N014 ES1D
D8 N019 N017 BAT54XV2T1G
R58 Vp N017 220 pwr=0.5
R59 Vp N017 220 pwr=0.5
R22 Vp N017 220 pwr=0.5
R25 N019 N013 4700
R19 N015 0 120
R23 Vamp N018 2.2
R20 N014 0 510 pwr=0.5
C18 N018 0 1n
Q1 Vsup N011 N012 0 BD139
Q4 N011 N013 N015 0 BD139
Q6 N017 N019 0 0 BD139
D1 N012 N011 BAT54XV2T1G
C47 Vp 0 10µ
C46 Vp 0 10µ
C45 Vp 0 10µ
L§FB1 Vp N016 380n Ipk=2.5 Rser=0.0301 Rpar=198 Cpar=1.1p mfg="Würth Elektronik" pn="782853121 WE-CBA 0805"
V2 N013 0 PULSE(0V 40V 0.5u 0 0 0.5u 1u 3)
Vp N016 0 8
Q3 Vsup N014 N015 0 BD139
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 4us
.lib C:\Users\msaya\Documents\Github\Amplifier\libs\Bib.LIB
.backanno
.end
